US08912188B2
To a solution of methyl 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (180 mg, 0.61 mmol) in 1,4-dioxane (1 mL) was added 3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole (440 mg, crude), K3PO4 (360 mg, 1.71 mmol), Pd(PPh3)4 (40 mg, 0.03 mmol) under nitrogen atmosphere. After stirring 4 h at 95° C., the reaction mixture was dissolved in water (50 mL), extracted with dichloromethane (3×30 mL), dried over anhydrous magnesium sulfate and concentrated under reduced pressure to afford a residue, which was purified by a silica gel column with 0.5% methanol in dichloromethane to afford methyl 3-(isopropyl(methyl)amino)-2-(3-methyl-1H-indazol-5-yl)quinoxaline-6-carboxylate as a light yellow solid (85 mg, 35%).

reactant | methyl 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 0.61 mmol, 180 mg | ClC1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC | C14H16ClN3O2
reactant | 3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole | 440 mg | CC1=NNC2=CC=C(C=C12)B1OC(C(O1)(C)C)(C)C | C14H19BN2O2
reactant | K3PO4 | 1.71 mmol, 360 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.03 mmol, 40 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-(isopropyl(methyl)amino)-2-(3-methyl-1H-indazol-5-yl)quinoxaline-6-carboxylate | 85 mg, 35% | C(C)(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C=1C=C2C(=NNC2=CC1)C)C | C22H23N5O2
